US06716851B2
4-(2,5-Dimethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2,5-dimethoxyaniline (59 mg, 0.386 mmol) similar to Example 58 and isolated as a light brown solid (36 mg, 50%). 1H NMR (DMSO-d6): 9.65 (s, 1H), 8.76-8.73 (m, 1H), 8.32 (d, J=7.8 Hz, 2H), 8.03-7.97 (m, 1H), 7.58-7.54 (m, 2H), 7.05 (d, J=9.0 Hz, 1H), 6.70 (dd, J=3.0, 8.7 Hz, 1H), 3.84 (s, 3H), 3.82 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 2,5-dimethoxyaniline | 0.386 mmol, 59 mg | COC1=C(N)C=C(C=C1)OC | C8H11NO2
product | 4-(2,5-Dimethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C(C=C1)OC | C18H15F3N4O2
